US07253196B2
2-Amino-5-isopropyl-5-methyl-1,3-oxazol-4(5H)-one
A mixture of ethyl 2-hydroxy-2,3-dimethylbutanoate (2.92 g, 18.2 mmol), guanidine hydrochloride (1.74 g, 18.2 mmol), and K2CO3 (2.52 g, 18.2 mmol) in 99.5% ethanol (40 mL) was stirred under reflux for 20 h. The solvent was removed, and the residue was purified by silica gel flash chromatography (ethyl acetate/methanol 9:1) to give the product as a white solid.

reactant | ethyl 2-hydroxy-2,3-dimethylbutanoate | 18.2 mmol, 2.92 g | OC(C(=O)OCC)(C(C)C)C | C8H16O3
reactant | guanidine hydrochloride | 18.2 mmol, 1.74 g | Cl.NC(=N)N
reactant | K2CO3 | 18.2 mmol, 2.52 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-Amino-5-isopropyl-5-methyl-1,3-oxazol-4(5H)-one | NC=1OC(C(N1)=O)(C)C(C)C | C7H12N2O2
